US05322954
Dimethyl 5-bromo-4-chloro-4-fluoro-3,4,5,6-tetrahydrophthalate
Dimethyl 4-chloro-3,6-dihydrophthalate (0.19 g) and pyridinium poly(hydrogen fluoride) were mixed together at room temperature and N-bromosuccinimide was slowly added. The reaction mixture turned dark then light yellow. After stirring at room temperature for 3 hours, the reaction mixture was carefully poured into saturated sodium bicarbonate solution containing methylene chloride. The methylene chloride layer was dried with magnesium sulfate and the solvent removed under reduced pressure. NMR and GC-MS analysis of the reaction mixture revealed the major product to be the desired dimethyl 5-bromo-4-chloro-4-fluoro-3,4,5,6-tetrahydrophthalate along with some dimethyl 4-fluorophthalate.

reactant | Dimethyl 4-chloro-3,6-dihydrophthalate | 0.19 g | ClC=1CC(=C(C(=O)OC)CC1)C(=O)OC | C10H11ClO4
reactant | pyridinium poly(hydrogen fluoride) | C1=CC=NC=C1.F
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Dimethyl 5-bromo-4-chloro-4-fluoro-3,4,5,6-tetrahydrophthalate | BrC1C(CC(=C(C(=O)OC)C1)C(=O)OC)(F)Cl | C10H11BrClFO4
